2174-12-01 07:13:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Sepsis
   24 Hour Events:
 SPUTUM CULTURE - At [**2174-11-30**] 08:00 AM
 BLOOD CULTURED - At [**2174-11-30**] 02:10 PM
 URINE CULTURE - At [**2174-11-30**] 02:10 PM
 ARTERIAL LINE - START [**2174-11-30**] 04:06 PM
 FEVER - 102.6
F - [**2174-11-30**] 06:00 PM
   - Febrile, tachy, bp's 90-110's through the day
   - On Levo, Neo, Fentanyl, Versed, Vanc, Cefipime, Cipro
   - Up 11L through day but UOP only in 30-40/hr
   - FeUrea 28%
   - Ca is dropping
   - O2 112 on ABG --> FiO2 dropped to 40%
   - Lactate coming down
   - Around 4am he became acutely agitated and was fighting the vent.  He
   was switched to propofol for sedation.
   -  Afterwards ABG 7.29/41/52/21/-6 so increased FiO2 to 70% and rr to
   20.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2174-11-30**] 07:55 AM
   Vancomycin - [**2174-11-30**] 09:16 AM
   Cefipime - [**2174-11-30**] 11:59 AM
   Ciprofloxacin - [**2174-12-1**] 12:22 AM
   Infusions:
   Phenylephrine - 0.3 mcg/Kg/min
   Norepinephrine - 0.16 mcg/Kg/min
   Fentanyl (Concentrate) - 120 mcg/hour
   Propofol - 30 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2174-11-30**] 11:43 AM
   Fentanyl - [**2174-12-1**] 12:00 AM
   Heparin Sodium (Prophylaxis) - [**2174-12-1**] 04:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2174-12-1**] 06:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.2
C (102.6
   Tcurrent: 36.3
C (97.3
   HR: 114 (104 - 135) bpm
   BP: 113/46(62) {65/31(51) - 130/61(90)} mmHg
   RR: 20 (0 - 32) insp/min
   SpO2: 97%
   Heart rhythm: AF (Atrial Fibrillation)
             Total In:
                                                                 13,059 mL
                                                                  1,681 mL
   PO:
             TF:
   IVF:
                                                                 13,059 mL
                                                                  1,681 mL
   Blood products:
   Total out:
                                                                    880 mL
                                                                    375 mL
   Urine:
                                                                    880 mL
                                                                    375 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 12,179 mL
                                                                  1,306 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 600 (600 - 600) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 70%
   RSBI Deferred: Hemodynamic Instability
   PIP: 14 cmH2O
   Plateau: 15 cmH2O
   Compliance: 60 cmH2O/mL
   SpO2: 97%
   ABG: 7.31/41/87.[**Numeric Identifier 244**]/21/-5
   Ve: 13.2 L/min
   PaO2 / FiO2: 126
   Physical Examination
   Intubated and sedated, unresponsive to sternal rub, though periodically
   moves limbs spontaneously.
   Anterior lung exam notable for decreased lung sounds.
   Irregular with loud systolic murmur
   Abd with hernia on left and also left inguinal hernia
   Extremities cool, 2+ pulses
   Labs / Radiology
   128 K/uL
   11.8 g/dL
   152 mg/dL
   2.0 mg/dL
   21 mEq/L
   3.5 mEq/L
   38 mg/dL
   111 mEq/L
   140 mEq/L
   35.1 %
   8.2 K/uL
        [image002.jpg]
                             [**2174-11-30**]  12:32 AM
                             [**2174-11-30**]  12:31 PM
                             [**2174-11-30**]  03:39 PM
                             [**2174-11-30**]  05:55 PM
                             [**2174-11-30**]  06:06 PM
                             [**2174-12-1**]  02:39 AM
                             [**2174-12-1**]  03:01 AM
                             [**2174-12-1**]  05:21 AM
                             [**2174-12-1**]  06:43 AM
   WBC
   6.5
   11.1
   8.2
   Hct
   40.4
   36.0
   35.1
   Plt
   178
   147
   128
   Cr
   2.0
   2.2
   2.0
   2.0
   TropT
   0.09
   TCO2
   19
   23
   23
   21
   22
   Glucose
   104
   123
   164
   152
   Other labs: PT / PTT / INR:24.4/43.6/2.3, CK / CKMB /
   Troponin-T:/5/0.09, Lactic Acid:1.4 mmol/L, Ca++:6.6 mg/dL, Mg++:2.0
   mg/dL, PO4:3.4 mg/dL
   Imaging: [**11-30**] CXR: In comparison with the study of [**11-29**], there is
   little overall change in the diffuse opacification involving much of
   the left lung and consistent with widespread pneumonia. The possibility
   of pulmonary hemorrhage could be considered in view of the radiographic
   pattern. The right lung is essentially clear.
   [**12-1**] CXR: new R-sided opacities, consolidation of L-sided opacities.
   Microbiology: [**11-29**] blood cx: preliminary sensitivities show a
   pan-sensitive E coli.
   [**11-30**] and [**11/2170**] blood cx pending.
   [**11-29**] sputum gram stain shows GNR and GPC in pairs and chains
   Assessment and Plan
 SMALL BOWEL OBSTRUCTION (INTESTINAL OBSTRUCTION, SBO, INCLUDING
   INTUSSUSCEPTION, ADHESIONS)
 PNEUMONIA, OTHER
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 HEART FAILURE (CHF), DIASTOLIC, CHRONIC
   76yoM h/o CHF, atrial fibrillation on coumadin and incarcerated hernia
   for which he refused surgery found down, now with pna and sepsis.
   #.  Goals of care: The patient
s HCP and close friend will be here
   today.  The patient consented to intubation in the ED and the HCP has
   wanted to treat
reversible processes
.  On a prior admission, Mr.
   [**Known lastname 10749**] was very clear about not wanting aggressive surgical intervention
   and not wanting escalation of care.  He did not formally make himself
   DNR/DNI.  Will meet today to discuss poor prognosis and goals of care.
 HCP here in early afternoon.  He agrees to patient being DNR and not
   escalating care.  However, he would like to maintain current level of
   care until he can contact some of the patient
s cousins.  [**Name (NI) **] agreed to
   being called tomorrow for further update.
   #.  Sepsis: Has progression on CXR and is still requiring extensive
   pressor support.  Source likely his pneumonia given GNR in sputum and
   blood.  Blood shows pan-sensitive GNR.  Urine without evidence of
   infection.  Recent h/o incarcerated hernia without repair, CT without
   evidence of abscess or perforation.  Started on Vanc/Zosyn/Flagyl, now
   on Vanc/cefepime/cipro/Flagyl.  Given the culture data of pan-sensitive
   E.Coli and GPC on sputum, we will simplify to vanc/cipro.  Given that
   his HCP does not want to escalate care, we will give no further fluid
   boluses and wean the pressors as tolerated.
   - f/u more recent blood cultures.
   - Abx: vanc/cipro
   - pressors to keep MAP > 65, weaning Levophed as much as tolerated.
   #. Respiratory Failure: Requiring increased FiO2 overnight, most recent
   ABG shows poor oxygenation.  Underlying etiology likely the progressive
   pneumonia.
   #. A fib with RVR: Rate in 120s and ST depressions.  We are holding off
   on beta blockers in the setting of requiring pressor support for
   sepsis, though he is on Metoprolol 50mg [**Hospital1 **] at home.
   - Hold coumadin
   #. Acute on chronic renal failure: Cr stabilized at 2.0 from baseline
   1.4-1.8 and UOP down to 30ccs per hour despite being flooded with many
   liters of fluid.  He is likely coping poorly with sepsis because of his
   critical aortic stenosis.  No muddy-brown casts on UA yesterday.
   - Trend Cr
   - Monitor UOP.  If it drops off acutely, we may consider giving further
   boluses of fluid.
   - Renally dose meds
   - Avoid nephrotoxic meds
   #. Elevated troponin: Trop 0.09, last measured on [**11-23**] was 0.02.
   CK-MB normal.  Unknown if symptommatic.  Has not progressed further and
   we are not treating at this time.
   #. SBO: Previous incisional hernia now reduced, but new inguinal
   hernia. CT with evidence of SBO.  Surgery aware.  He has refused
   surgery in the past and there is no plans for surgery even if hernia
   worsens.
   #. Altered Mental Status: Found down, unclear prior symptoms.  Concern
   for trauma although CT head negative.  H/o a fib, INR low, concern for
   ischemic stroke, however global AMS, no obvious focal lesions.  Likely
   [**2-28**] toxic/metabolic abnormalities from sepsis.  Now on sedation and
   difficult to assess.
   - Wean sedation and monitor for changes
   #. C-Spine precautions: Found down, unknown trauma.  Collared by EMS,
   unable to clear [**2-28**] AMS.  CT C-spine negative.
   - Clear when mental status improves
   #. CHF/AS: Last EF 60-70%, severe AS.  Has refused surgery in the
   past.
   - Hold home lisinopril
   - carefully monitor fluid status
   #. FEN: NPO, repleate lytes
   #. PPX:
   -DVT ppx with pneumoboots
   -Pantoprazole 40mg Q24hrs for stress-ulcer prophylaxis.
   -Pain management with fentanyl
   #. ACCESS: 2 PIVs, Femoral line
   #. CODE STATUS: DNR
   #. EMERGENCY CONTACT: [**Name (NI) 5463**] [**Name (NI) 10741**] - HCP ([**Telephone/Fax (1) 10742**] and
   [**Telephone/Fax (1) 10743**]).  Was in today.
   #. DISPOSITION: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2174-11-30**] 12:28 AM
   18 Gauge - [**2174-11-30**] 12:28 AM
   Arterial Line - [**2174-11-30**] 04:06 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR
   Disposition: Pending plan from health-care proxy.  Currently plan is to
   not escalate care.  Patient requiring ICU level support for now.

2174-12-02 07:02:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Antibiotics changed to vanc/cipro from E. Coli in blood
   - Meeting with HCP [**Name (NI) 5463**] [**Name (NI) 10741**].  He agreed to make patient DNR and
   to not escalate further, but wanted to contact family members before
   making any final decision.  He will call tomorrow to update us.
   - [**Name (NI) 552**] niece, [**Name (NI) 10773**] [**Name (NI) 10749**], came in.  Understood the situation and
   wants to support [**Doctor Last Name 5463**] in his decision to withdraw care.  She will
   contact [**Name (NI) 5463**] in the morning to talk to him.
   - Plan is to check once daily labs only.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2174-11-30**] 07:55 AM
   Cefipime - [**2174-12-1**] 11:55 AM
   Ciprofloxacin - [**2174-12-1**] 11:56 AM
   Vancomycin - [**2174-12-1**] 08:49 PM
   Infusions:
   Fentanyl (Concentrate) - 130 mcg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2174-12-1**] 07:42 AM
   Fentanyl - [**2174-12-1**] 07:42 AM
   Heparin Sodium (Prophylaxis) - [**2174-12-1**] 11:55 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2174-12-2**] 07:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.2
C (102.6
   Tcurrent: 39.2
C (102.5
   HR: 103 (90 - 115) bpm
   BP: 95/43(60) {89/40(57) - 124/51(73)} mmHg
   RR: 20 (0 - 20) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
             Total In:
                                                                  4,028 mL
                                                                    582 mL
   PO:
             TF:
   IVF:
                                                                  4,028 mL
                                                                    582 mL
   Blood products:
   Total out:
                                                                  1,235 mL
                                                                    410 mL
   Urine:
                                                                  1,235 mL
                                                                    410 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,793 mL
                                                                    172 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 600 (600 - 600) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 25
   PIP: 21 cmH2O
   Plateau: 17 cmH2O
   Compliance: 54.5 cmH2O/mL
   SpO2: 100%
   ABG: 7.30/41/161/19/-5
   Ve: 12.3 L/min
   PaO2 / FiO2: 322
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   105 K/uL
   11.4 g/dL
   115 mg/dL
   1.9 mg/dL
   19 mEq/L
   3.8 mEq/L
   38 mg/dL
   109 mEq/L
   137 mEq/L
   34.8 %
   6.5 K/uL
        [image002.jpg]
                             [**2174-11-30**]  12:31 PM
                             [**2174-11-30**]  03:39 PM
                             [**2174-11-30**]  05:55 PM
                             [**2174-11-30**]  06:06 PM
                             [**2174-12-1**]  02:39 AM
                             [**2174-12-1**]  03:01 AM
                             [**2174-12-1**]  05:21 AM
                             [**2174-12-1**]  06:43 AM
                             [**2174-12-1**]  12:54 PM
                             [**2174-12-2**]  03:48 AM
   WBC
   11.1
   8.2
   6.5
   Hct
   36.0
   35.1
   34.8
   Plt
   147
   128
   105
   Cr
   2.2
   2.0
   2.0
   1.9
   TCO2
   19
   23
   23
   21
   22
   21
   Glucose
   123
   164
   152
   115
   Other labs: PT / PTT / INR:17.7/48.7/1.6, CK / CKMB /
   Troponin-T:/5/0.09, Lactic Acid:1.1 mmol/L, Ca++:7.2 mg/dL, Mg++:2.0
   mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
   76yoM h/o CHF, atrial fibrillation on coumadin and incarcerated hernia
   for which he refused surgery found down, now with pna and sepsis.
   #.  Goals of care: The patient
s HCP and close friend as well as family
   visited and have agreed to no escalation of care and DNR.  They likely
   will talk today and probably will make pt [**Name (NI) 617**].  On a prior admission,
   Mr. [**Known lastname 10749**] was very clear about not wanting aggressive surgical
   intervention and not wanting escalation of care.
   - Meet today to discuss poor prognosis and goals of care.
   #.  Sepsis: Continued fever, currently requiring pressor support,
   however no further escalation of care.  Source likely his pneumonia
   given GNR in sputum and blood.  Blood shows pan-sensitive E. Coli,
   antibiotics cipro/vanc.  Urine without evidence of infection.  Recent
   h/o incarcerated hernia without repair, CT without evidence of abscess
   or perforation.
   - f/u more blood cultures
   - Continue vanc/cipro, plan to d/c vanc when sputum GPC speciation
   returns
   #. Respiratory Failure: Requiring increased FiO2 overnight, most recent
   ABG shows poor oxygenation.  Underlying etiology likely the progressive
   pneumonia.
   #. A fib with RVR: Rate in 120s and ST depressions.  We are holding off
   on beta blockers in the setting of requiring pressor support for
   sepsis, though he is on Metoprolol 50mg [**Hospital1 **] at home.
   - Hold coumadin
   #. Acute on chronic renal failure: Cr stabilized at 1.9 from baseline
   1.4-1.8 and UOP down to 30ccs per hour despite being flooded with many
   liters of fluid.  He is likely coping poorly with sepsis because of his
   critical aortic stenosis.  No muddy-brown casts on UA yesterday.
   - Trend Cr
   - Renally dose meds
   - Avoid nephrotoxic meds
   #. SBO: Previous incisional hernia now reduced, but new inguinal
   hernia. CT with evidence of SBO.  Surgery aware.  He has refused
   surgery in the past and there is no plans for surgery even if hernia
   worsens.
   #. Altered Mental Status: Found down, unclear prior symptoms.  Concern
   for trauma although CT head negative.  H/o a fib, INR low, concern for
   ischemic stroke, however global AMS, no obvious focal lesions.  Likely
   [**2-28**] toxic/metabolic abnormalities from sepsis.  Now on sedation and
   difficult to assess.
   - Wean sedation and monitor for changes
   #. C-Spine precautions: Found down, unknown trauma.  Collared by EMS,
   unable to clear [**2-28**] AMS.  CT C-spine negative.  Unable to clear collar
   given AMS.
   #. CHF/AS: Last EF 60-70%, severe AS.  Has refused surgery in the
   past.
   - Hold home lisinopril
   #. FEN: NPO, repleate lytes
   #. PPX:
   -DVT ppx with pneumoboots
   -Pantoprazole 40mg Q24hrs for stress-ulcer prophylaxis.
   -Pain management with fentanyl
   #. ACCESS: 2 PIVs, Femoral line
   #. CODE STATUS: DNR
   #. EMERGENCY CONTACT: [**Name (NI) 5463**] [**Name (NI) 10741**] - HCP ([**Telephone/Fax (1) 10742**] and
   [**Telephone/Fax (1) 10743**]).  Was in today.
   #. DISPOSITION: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2174-11-30**] 12:28 AM
   18 Gauge - [**2174-11-30**] 12:28 AM
   Arterial Line - [**2174-11-30**] 04:06 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition: